US07470700B2
5-Bromo-2-chloro-3H-pyrimidin-4-one (1.88 g, 9.0 mmol) was stirred in DME (25 mL)/DMF (5 mL) under nitrogen at 0° C. Sodium hydride (95%, 238 mg, 9.4 mmol) was added in portions. After 10 min, lithium bromide (1.56 g, 17.9 mmol) was added and the reaction stirred for 15 min at r.t. α-Bromo-o-tolunitrile (3.5 g, 17.9 mmol) was added, and the reaction stirred at 65° C. for 8 h. The solution was diluted with EtOAc, washed with brine, dried (MgSO4) and concentrated in vacuo. Purification by silica gel chromatography (1:1:1 EtOAc/hexanes/CHCl3) gave 997 mg (34%) of 2-(5-bromo-2-chloro-6-oxo-6H-pyrimidin-1-ylmethyl)-benzonitrile as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.11 (s, 1H), 7.73 (dd, 1H, J=7.6, 1.2 Hz), 7.58 (dt, 1H, J=7.6, 1.2 Hz), 7.45 (t, 1H, J=7.6 Hz), 7.16 (d, 1H, J=7.6 Hz), 5.69 (s, 2H). MS (ES) [m+H] calc'd for C12H7N3OBrCl, 324, 326, 328; found 324, 326, 328.

reactant | 5-Bromo-2-chloro-3H-pyrimidin-4-one | 9.0 mmol, 1.88 g | BrC=1C(NC(=NC1)Cl)=O | C4H2BrClN2O
reactant | Sodium hydride | 9.4 mmol, 238 mg | [H-].[Na+]
reactant | lithium bromide | 17.9 mmol, 1.56 g | [Br-].[Li+]
reactant | α-Bromo-o-tolunitrile | 17.9 mmol, 3.5 g | BrCC=1C(=CC=CC1)C#N | C8H6BrN
solvent | DME | 25 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(5-bromo-2-chloro-6-oxo-6H-pyrimidin-1-ylmethyl)-benzonitrile | 997 mg, 34% | BrC1=CN=C(N(C1=O)CC1=C(C#N)C=CC=C1)Cl | C12H7BrClN3O
